US08026261B2
A. Preparation of 5-benzyloxy-1-methyl-4-oxo-1,4-dihydro-pyridine-2-carboxylic acid
A mixture of 5-benzyloxy-4-oxo-4H-pyran-2-carboxylic acid (20.0 g, 81.2 mmol) and a solution of 2M MeNH2 in methanol (162.5 mL, 325 mmol) was stirred at RT for 16 h. Volatiles were removed under reduced vacuum, and the residue was dissolved in 70 mL of de-ionized water. To the ice-cold mixture was added a 6N HCl solution (13.5 mL, 81.0 mmol) dropwise. The precipitated solid was collected via filtration, and washed with water and acetone to give the title compound as a light yellow solid (18.9 g, 90% yield). 1H NMR (400 MHz, DMSO-D6) δ (ppm): 7.82 (s, 1H), 7.45-7.33 (m, 5H), 6.72 (s, 1H), 5.05 (s, 2H) and 3.84 (s, 3H); MS-ESI (m/z): 259.8 [M+1]+, 91.2.

reactant | 5-benzyloxy-4-oxo-4H-pyran-2-carboxylic acid | 81.2 mmol, 20.0 g | C(C1=CC=CC=C1)OC=1C(C=C(OC1)C(=O)O)=O | C13H10O5
reactant | MeNH2 | 2M | CN | CH5N
reactant | methanol | 325 mmol, 162.5 mL | CO | CH4O
reactant | HCl | 81.0 mmol, 6N, 13.5 mL | Cl | ClH
product | 5-benzyloxy-1-methyl-4-oxo-1,4-dihydro-pyridine-2-carboxylic acid | 18.9 g, 90% yield | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C)C(=O)O)=O | C14H13NO4
